US07638515B2
4.43 g (18.45 mmol) of methyl-(2,6-dinitrophenyl)-acetate is added in 38.8 ml of glacial acetic acid and 11 ml of water and mixed with 3.75 g of iron powder and stirred for four more hours. In this case, heating to 40 to 60° C. takes place. The reaction mixture is added to ice water, mixed with ethyl acetate and vigorously stirred for ten minutes. The mixture is filtered through a glass-fiber filter, the organic phase is separated, and the aqueous phase is extracted twice more with ethyl acetate. The combined organic extracts are washed with brine, dried, and the solvent is spun off after the desiccant is filtered off. The residue is chromatographed on silica gel (mobile solvent methanol/dichloromethane). 2.38 g of 4-nitro-indol-2-one is isolated. The nitro compound is mixed again in glacial acetic acid/water with 2.7 g of iron powder, and the above-described cycle is passed through another time. 1.63 g of the desired amine is isolated.

reactant | methyl-(2,6-dinitrophenyl)-acetate | 18.45 mmol, 4.43 g | COC(CC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-])=O | C9H8N2O6
reactant | water | 11 ml | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 38.8 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 3.75 g | [Fe] | Fe
product | 4-nitro-indol-2-one | 2.38 g | [N+](=O)([O-])C=1C2=CC(N=C2C=CC1)=O | C8H4N2O3
